US08044233B2
A mixture of 8.0 g of terephthalic acid (48 mmol), 0.10 g of Re2(CO)10 (0.15 mmol) and 17.3 g of toluene was subjected to vinylation at 140° C., a nitrogen pressure of 2 bar and an acetylene pressure of 18 bar for 6 h. Divinyl terephthalate was obtained, which was detectable by means of GC-MS analysis.

reactant | terephthalic acid | 48 mmol, 8.0 g | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | acetylene | C#C | C2H2
reactant | toluene | 17.3 g | C1(=CC=CC=C1)C | C7H8
catalyst | Re2(CO)10 | 0.15 mmol, 0.10 g | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Re].[Re]
product | Divinyl terephthalate | C(C1=CC=C(C(=O)OC=C)C=C1)(=O)OC=C | C12H10O4
